.subckt AHUJA_FDA VSS VDD VOP VON VIP VIN VCM IBIAS nVcmfb
* =====================================================================
* Two-Stage Fully-Differential Amplifier with Ahuja Cascoded Miller
* Compensation. Polarity-flipped from Fig 7-2 (NMOS input pair at
* bottom, PMOS cascoded current-source load at top) to fit VDD=1.8 V
* with VCM=0.9 V.
*
* Spec: Avo=100 dB, UGF>5 MHz, PM>50°, SR>5 V/µs,
*       CL=10 pF, Output swing=1 V, P<2 mW, VDD=1.8 V±5 %
*
* Stage 1: NMOS input pair (sources at ITAIL @ VSS) + PMOS cascoded
*          current-source load (Md cascode'd by Mc). High-Z node A.
* Stage 2: PMOS common-source (gate=A) + NMOS active load (CMFB).
* Comp:    Cc from output to PMOS cascode SOURCE node B (Ahuja).
*
* Device flavor:
*   * NMOS    : sky130_fd_pr__nfet_01v8       (Vth ≈ 0.6 V)
*   * PMOS load/cascode : sky130_fd_pr__pfet_01v8_lvt (Vth ≈ 0.4 V).
*     Standard pfet_01v8 has Vth ≈ 1.0 V, eating all stage-1 headroom
*     in 1.8 V supply. LVT keeps the cascoded topology viable.
*   * PMOS stage-2 CS  : sky130_fd_pr__pfet_01v8_lvt (same reason).
*
* Bias plan @ Itail = 200 µA:
*   Mi  : 100 µA / branch  NMOS L=0.5
*   Md  : 100 µA / branch  PMOS-LVT L=1
*   Mc  : 100 µA / branch  PMOS-LVT L=1   (cascode)
*   Ml  : 200 µA / branch  PMOS-LVT L=0.5 (stage-2 CS)
*   Mu  : 200 µA / branch  NMOS L=1       (CMFB-controlled load)
*   Total ≈ 610 µA → 1.10 mW < 2 mW spec.
*
* Headroom (typical):
*   ntail ≈ 0.20 V
*   APOS  ≈ 0.95 V          (Mc drain, Md drain via cascode)
*   BPOS  ≈ 1.30 V          (Mc source, Md drain — Vsg_Md ≈ 0.5 V)
*   VOP   ≈ 0.90 V (CMFB)
* =====================================================================

* ---- Bias references: WIDE-SWING PMOS cascode mirror, resistor-free.
* External IBIAS = 100 uA from bandgap, sinks into XM_REF (NMOS diode @ VSS).
* Two NMOS mirror legs pull 100 uA each through two PMOS-LVT diodes (separate,
* not stacked — stacking 2 Vsg would eat the whole 1.8 V supply).
*
*   XMD_REF (W = W_main)            -> VbD = VDD - |Vth| - |Vov_D|
*   XMC_REF (W = W_main/n, n tuned) -> VbC = VDD - |Vth| - |Vov_C|, with
*                                       |Vov_C| > |Vov_D| so VbC < VbD by ~|Vov_D|
*
* Sized for |Vov_D| ~ 0.25 V at 100 uA: W_main = 40, nf=8.
*
* NMOS master diode @ 100 uA
XM_REF   IBIAS  IBIAS  VSS    VSS  sky130_fd_pr__nfet_01v8  L=1 W=10 nf=2 m=1

* Tail mirror: x2 -> ITAIL (200 uA total, ~100 uA / branch)
XM_TAIL  ntail  IBIAS  VSS    VSS  sky130_fd_pr__nfet_01v8  L=1 W=20 nf=4 m=1

* NMOS leg 1 (100 uA into VbD)
XM_NL1   VbD    IBIAS  VSS    VSS  sky130_fd_pr__nfet_01v8  L=1 W=10 nf=2 m=1
* PMOS-LVT diode (W_main) -> VbD
XMD_REF  VbD    VbD    VDD    VDD  sky130_fd_pr__pfet_01v8_lvt  L=1 W=20 nf=4 m=1

* NMOS leg 2 (100 uA into VbC)
XM_NL2   VbC    IBIAS  VSS    VSS  sky130_fd_pr__nfet_01v8  L=1 W=10 nf=2 m=1
* PMOS-LVT diode (smaller W) -> larger Vsg -> VbC < VbD (cascode bias)
XMC_REF  VbC    VbC    VDD    VDD  sky130_fd_pr__pfet_01v8_lvt  L=1 W=8 nf=2 m=1

XMI1     APOS   VIP    ntail  VSS  sky130_fd_pr__nfet_01v8  L=2 W=40 nf=8 m=1
XMI2     ANEG   VIN    ntail  VSS  sky130_fd_pr__nfet_01v8  L=2 W=40 nf=8 m=1

XMC1     APOS   VbC    BPOS   VDD  sky130_fd_pr__pfet_01v8_lvt  L=1 W=20 nf=4 m=1
XMC2     ANEG   VbC    BNEG   VDD  sky130_fd_pr__pfet_01v8_lvt  L=1 W=20 nf=4 m=1

* PMOS top current source (LVT) — matched to XMD_REF (W=20) for 1:1 mirror
XMD1     BPOS   VbD    VDD    VDD  sky130_fd_pr__pfet_01v8_lvt  L=1 W=20 nf=4 m=1
XMD2     BNEG   VbD    VDD    VDD  sky130_fd_pr__pfet_01v8_lvt  L=1 W=20 nf=4 m=1

* ---- STAGE 2 -------------------------------------------------------
* Stage 2: long L for high rds; W chosen for ~ 10-30uA at Vsg given by APOS.
XML_P    VOP    APOS   VDD    VDD  sky130_fd_pr__pfet_01v8_lvt  L=8 W=80 nf=8 m=1
XML_N    VON    ANEG   VDD    VDD  sky130_fd_pr__pfet_01v8_lvt  L=8 W=80 nf=8 m=1

* NMOS load (CMFB) L=8 long.
XMU_P    VOP    nVcmfb VSS    VSS  sky130_fd_pr__nfet_01v8  L=8 W=40 nf=4 m=1
XMU_N    VON    nVcmfb VSS    VSS  sky130_fd_pr__nfet_01v8  L=8 W=40 nf=4 m=1

* ---- AHUJA CASCODED MILLER -----------------------------------------
* Cc to cascode SOURCE (B), not gate (A). Kills RHP zero.
CC_P     VOP    BPOS   30p
CC_N     VON    BNEG   30p

* PM compensation: small caps on stage-1 high-Z node (APOS/ANEG) push
* the pole at A down, making it the dominant pole. Combined with Ahuja
* Cc, this should boost PM significantly without big GBW loss.
CA_P     APOS   VSS    5p
CA_N     ANEG   VSS    5p

* =====================================================================
* TRANSISTOR CMFB (resistive CM-sense + single-stage diff amp).
*
* Why this topology: Choksi-Carley two-pair CMFB has two stable DC
* basins (high-Z output node), causing OP convergence to wrong basin.
* Resistive averaging gives a unique linear sense -> deterministic OP.
*
* Operation:
*   RSP, RSN form CM-sense node v_cms = (VOP + VON)/2 at DC.
*   AC: equal R's, differential signal cancels at v_cms.
*   v_cms vs VCM error fed into PMOS diff pair (PMOS so works at any VOP).
*   diff-pair drain pulled by NMOS diode/mirror -> single integrating
*   output node (nVcmfb).
*
* Polarity:
*   V_OCM up -> v_cms up -> Q_CMS Vsg shrinks -> I_CMS down -> tail-
*   shared Q_REF current up -> NMOS mirror at nVcmfb pulls more ->
*   wait, this is wrong polarity (would pull nVcmfb down).
*   So: tap the OTHER drain - put nVcmfb on the Q_CMS side.
*   V_OCM up -> I_CMS down -> drain of Q_CMS pulled UP (less current
*   into NMOS load) -> nVcmfb RISES -> MU sinks more -> V_OCM falls. OK
* =====================================================================

* CM-sense averaging resistors (1MEG each, neglig. loading on VOP/VON)
RSP    VOP    v_cms  1MEG
RSN    VON    v_cms  1MEG

* Polarity reasoning (NEGATIVE feedback target: V_OCM up -> nVcmfb up):
*   v_cms ↑ -> Q_CMS_S (gate=v_cms) Vsg shrinks -> I_DIODE side ↓ ->
*   NMOS diode Vgs ↓ -> NMOS mirror gate ↓ -> mirror sinks LESS at output ->
*   Q_REF_S (gate=VCM, fixed I) sources constant into output node ->
*   net charge into output → nVcmfb RISES.  ✓
* PMOS top tail (50uA, biased from VbD diode)
XQT_CM stail_cm VbD  VDD    VDD  sky130_fd_pr__pfet_01v8_lvt  L=1 W=10 nf=2 m=1

* PMOS diff pair: SENSE on diode-side gate, REF on output-side gate
XQ_CMS n_diode v_cms stail_cm VDD  sky130_fd_pr__pfet_01v8_lvt  L=0.5 W=20 nf=2 m=1
XQ_REF nVcmfb  VCM   stail_cm VDD  sky130_fd_pr__pfet_01v8_lvt  L=0.5 W=20 nf=2 m=1

* NMOS load: diode at n_diode (sense side), mirror at nVcmfb (output side)
XQL_REF n_diode n_diode VSS    VSS  sky130_fd_pr__nfet_01v8  L=1 W=10 nf=1 m=1
XQL_CMS nVcmfb  n_diode VSS    VSS  sky130_fd_pr__nfet_01v8  L=1 W=10 nf=1 m=1

* Slow-CMFB compensation cap at output node
CCMC   nVcmfb VSS    2p

.ends
